### PR TITLE
Erdős Problem 503

### PR DESCRIPTION
**Pull request by rao107**
Adds [Erdős Problem 503](https://www.erdosproblems.com/503).

### CODE REVIEW

File: FormalConjectures/ErdosProblems/503.lean [hunk 1]
```diff
@@ -0,0 +1,86 @@
...
+
+*Reference:* [erdosproblems.com/503](https://www.erdosproblems.com/503)
+-/
+
+namespace Erdos503
+
+abbrev ESpace (n : ℕ) := EuclideanSpace ℝ (Fin n)
+
+def isIsosceles {n : ℕ} (x y z : ESpace n) :=
+  dist x y = dist y z ∨ dist y z = dist x z ∨ dist x y = dist x z
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/503.lean]: How about moving these definitions to a new file FormalConjectures/ForMathlib/Geometry/Euclidean.lean or something similar? There are more problems that use "isosceles" (https://www.erdosproblems.com/search/isosceles), and having a notation for $$\mathbb{R}^n$$ handy is also a good idea

File: FormalConjectures/ErdosProblems/503.lean [hunk 2]
```diff
@@ -0,0 +1,86 @@
...
+
+/-!
+# Erdős Problem 503
+
+*Reference:* [erdosproblems.com/503](https://www.erdosproblems.com/503)
+-/
+
+namespace Erdos503
+
+abbrev ESpace (n : ℕ) := EuclideanSpace ℝ (Fin n)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/503.lean]:
```suggestion
scoped[EuclideanGeometry] notation "ℝ^" n:65 => EuclideanSpace ℝ (Fin n)
```

This would be more consistent what we have so far

File: FormalConjectures/ErdosProblems/503.lean [hunk 3]
```diff
@@ -0,0 +1,86 @@
...
+def isoscelesSet {n : ℕ} (A : Set (ESpace n)) := A.Triplewise (λ x y z ↦ isIsosceles x y z)
+
+/--
+What is the size of the largest $A \subseteq \mathbb{R}^n$ such that every three points from $A$
+determine an isosceles triangle? That is, for any three points $x$, $y$, $z$ from $A$, at least two
+of the distances $|x - y|$, $|y - z|$, $|x - z|$ are equal.
+-/
+@[category research open, AMS 51]
+theorem erdos_503 {n : ℕ} : ∃ A : Set (ESpace n), isoscelesSet A ∧ (∀ B : Set (ESpace n),
+    isoscelesSet B → B.ncard ≤ A.ncard) ∧ A.ncard = answer(sorry) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/503.lean]: one could use `IsGreatest` here
also below. 
But perhaps even better define the largest such that separately using `iSup` or `sSup` then we can use it all over the place?

**Review by mo271 — COMMENTED** [review]
Nice, especially doing all of the statements on the page.

I left a few initial comments, but looks good in general..

**Comment by rao107** [comment]
Apologies for the delay!

I wasn't sure how to best define "largest such that", so I decided to use `IsGreatest` since that was more straightforward.

File: FormalConjectures/ErdosProblems/503.lean [hunk 4]
```diff
@@ -0,0 +1,81 @@
...
+open scoped EuclideanGeometry
+
+/--
+What is the size of the largest $A \subseteq \mathbb{R}^n$ such that every three points from $A$
+determine an isosceles triangle? That is, for any three points $x$, $y$, $z$ from $A$, at least two
+of the distances $|x - y|$, $|y - z|$, $|x - z|$ are equal.
+-/
+@[category research open, AMS 51]
+theorem erdos_503 {n : ℕ} :
+    IsGreatest {m | ∃ A : Set (ℝ^n), isoscelesSet A ∧ A.ncard = m} answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/503.lean]:
```suggestion
    IsGreatest {(A.ncard) | (A : Set (ℝ^n)) (hA : isoscelesSet A)} answer(sorry) := by
```
I find this a bit cleaner

File: FormalConjectures/ErdosProblems/503.lean [hunk 5]
```diff
@@ -0,0 +1,81 @@
...
+  sorry
+
+/--
+When $n = 2$, the answer is 6 (due to Kelly
+[ErKe47](https://mathscinet.ams.org/mathscinet/relay-station?mr=1526679) - an alternative proof is
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/503.lean]: Could you also update the references as I described in the other PR of yours that I reviewed?

File: FormalConjectures/ErdosProblems/503.lean [hunk 6]
```diff
@@ -0,0 +1,81 @@
...
+
+open scoped EuclideanGeometry
+
+/--
+What is the size of the largest $A \subseteq \mathbb{R}^n$ such that every three points from $A$
+determine an isosceles triangle? That is, for any three points $x$, $y$, $z$ from $A$, at least two
+of the distances $|x - y|$, $|y - z|$, $|x - z|$ are equal.
+-/
+@[category research open, AMS 51]
+theorem erdos_503 {n : ℕ} :
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/503.lean]:
```suggestion
theorem erdos_503 (n : ℕ) :
```

File: FormalConjectures/ErdosProblems/503.lean [hunk 7]
```diff
@@ -0,0 +1,81 @@
...
+/--
+The best upper bound known in general is due to Blokhius
+[Bl84](https://mathscinet.ams.org/mathscinet/relay-station?mr=751955) who showed that
+$$
+|A| \leq \binom{n + 2}{2}
+$$
+-/
+@[category research solved, AMS 51]
+theorem erdos_503.variants.upper_bound {n : ℕ} :
+    ∃ a, IsGreatest {m | ∃ A : Set (ℝ^n), isoscelesSet A ∧ A.ncard = m} a ∧ a ≤ (n + 2).choose 2 := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/503.lean]:
```suggestion
    ∀ m ∈ {(A.ncard) | (A : Set (ℝ^n)) (hA : isoscelesSet A)}, m ≤ (n + 2).choose 2 := by
```
The way it is stated before forces you to solve `erdos_503` first, and then prove its bounded above by this bound.

File: FormalConjectures/ErdosProblems/503.lean [hunk 8]
```diff
@@ -0,0 +1,81 @@
...
+
+/--
+The best upper bound known in general is due to Blokhius
+[Bl84](https://mathscinet.ams.org/mathscinet/relay-station?mr=751955) who showed that
+$$
+|A| \leq \binom{n + 2}{2}
+$$
+-/
+@[category research solved, AMS 51]
+theorem erdos_503.variants.upper_bound {n : ℕ} :
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/503.lean]:
```suggestion
theorem erdos_503.variants.upper_bound (n : ℕ) :
```

File: FormalConjectures/ErdosProblems/503.lean [hunk 9]
```diff
@@ -0,0 +1,81 @@
...
+/--
+Alweiss has observed a lower bound of $\binom{n + 1}{2}$ follows from considering the subset of
+$\mathbb{R}^{n + 1}$ formed of all vectors $e_i + e_j$ where $e_i$, $e_j$ are distinct coordinate
+vectors. This set can be viewed as a subset of some $\mathbb{R}^n$, and is easily checked to have
+the required property.
+-/
+@[category research solved, AMS 51]
+theorem erdos_503.variants.lower_bound {n : ℕ} :
+    ∃ a, IsGreatest {m | ∃ A : Set (ℝ^n), isoscelesSet A ∧ A.ncard = m} a ∧ (n + 1).choose 2 ≤ a := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/503.lean]:
```suggestion
theorem erdos_503.variants.lower_bound (n : ℕ) :
    ∀ m ∈ {(A.ncard) | (A : Set (ℝ^n)) (hA : isoscelesSet A)}, (n + 1).choose 2 ≤ m := by
  sorry
```

File: FormalConjectures/ForMathlib/Geometry/Euclidean.lean [hunk 10]
```diff
@@ -0,0 +1,27 @@
...
+-/
+
+import Mathlib.Analysis.InnerProductSpace.PiL2
+import FormalConjectures.ForMathlib.Data.Set.Triplewise
+
+scoped[EuclideanGeometry] notation "ℝ^" n:65 => EuclideanSpace ℝ (Fin n)
+
+open scoped EuclideanGeometry
+
+def isIsosceles {n : ℕ} (x y z : ℝ^n) :=
```
Comment (callesonne) [inline FormalConjectures/ForMathlib/Geometry/Euclidean.lean]:
```suggestion
def IsIsosceles {n : ℕ} (x y z : ℝ^n) :=
```

File: FormalConjectures/ForMathlib/Geometry/Euclidean.lean [hunk 11]
```diff
@@ -0,0 +1,27 @@
...
+  dist x y = dist y z ∨ dist y z = dist x z ∨ dist x y = dist x z
+
+def isoscelesSet {n : ℕ} (A : Set (ℝ^n)) := A.Triplewise (isIsosceles · · ·)
```
Comment (callesonne) [inline FormalConjectures/ForMathlib/Geometry/Euclidean.lean]:
```suggestion
def Set.IsIsosceles {n : ℕ} (A : Set (ℝ^n)) := A.Triplewise (isIsosceles · · ·)
```

File: FormalConjectures/ForMathlib/Geometry/Euclidean.lean (hunk 10 above)
Comment (rao107) [reply FormalConjectures/ForMathlib/Geometry/Euclidean.lean]: It occurs to me that this definition could be generalized to any type with `{α : Type} [Dist α] (x y z : α)`. What do you think?

File: FormalConjectures/ForMathlib/Geometry/Euclidean.lean (hunk 11 above)
Comment (rao107) [reply FormalConjectures/ForMathlib/Geometry/Euclidean.lean]: If I change this name to `Set.IsIsosceles`, then the other definition cannot be `IsIsosceles` because then the names overlap and Lean raises an error. For now, I've changed the name of the first definition to `IsIsoscelesRn`.

File: FormalConjectures/ForMathlib/Geometry/Euclidean.lean (hunk 10 above)
Comment (callesonne) [reply FormalConjectures/ForMathlib/Geometry/Euclidean.lean]: True, that's a good idea, I would do it!

File: FormalConjectures/ForMathlib/Geometry/Euclidean.lean [hunk 12]
```diff
@@ -0,0 +1,27 @@
...
+import FormalConjectures.ForMathlib.Data.Set.Triplewise
+
+scoped[EuclideanGeometry] notation "ℝ^" n:65 => EuclideanSpace ℝ (Fin n)
+
+open scoped EuclideanGeometry
+
+def IsIsoscelesRn {n : ℕ} (x y z : ℝ^n) :=
+  dist x y = dist y z ∨ dist y z = dist x z ∨ dist x y = dist x z
+
+def Set.IsIsosceles {n : ℕ} (A : Set (ℝ^n)) := A.Triplewise (IsIsoscelesRn · · ·)
```
Comment (callesonne) [inline FormalConjectures/ForMathlib/Geometry/Euclidean.lean]:
```suggestion
def IsIsosceles {n : ℕ} (x y z : ℝ^n) :=
  dist x y = dist y z ∨ dist y z = dist x z ∨ dist x y = dist x z

nonrec def Set.IsIsosceles {n : ℕ} (A : Set (ℝ^n)) := A.Triplewise (IsIsosceles · · ·)
```
This should work

**Review by callesonne — APPROVED** [review]
This is ready to go after my final comment has been adressed, thanks a lot!

File: FormalConjectures/ForMathlib/Geometry/Euclidean.lean (hunk 10 above)
Comment (rao107) [reply FormalConjectures/ForMathlib/Geometry/Euclidean.lean]: Turns out, that exact definition was already in `ForMathlib/Geometry/2d.lean` 😅

**Comment by rao107** [comment]
> This is ready to go after my final comment has been adressed, thanks a lot!

Fixed now, and no prob :slightly_smiling_face:
